US09376420B2
Step 1: 4-(6-bromo-pyridin-3-yl)-2-oxo-3-butenoic acid methyl ester
A mixture of the 4-(6-bromo-pyridin-3-yl)-2-oxo-3-butenoic acid sodium salt (900.0 mg, 3.2 mmol) in the form of a pale yellow solid, methyl iodide (400.0 mL, 6.47 mmol) in N,N-dimethylformamide (20.0 mL) was stirred at 75° C. for 3 hours. Distilled water was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was washed with a saturated solution of sodium hydrogen carbonate and brine, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give 615.0 mg of the titled compound as a pale yellow solid.

reactant | 4-(6-bromo-pyridin-3-yl)-2-oxo-3-butenoic acid sodium salt | 3.2 mmol, 900.0 mg | [Na+].BrC1=CC=C(C=N1)C=CC(C(=O)[O-])=O
reactant | methyl iodide | 6.47 mmol, 400.0 mL | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
product | 4-(6-bromo-pyridin-3-yl)-2-oxo-3-butenoic acid methyl ester | 615.0 mg | COC(C(C=CC=1C=NC(=CC1)Br)=O)=O | C10H8BrNO3
